US09382236B2
(4) 5-[2-(2-Iodobenzoyl)aminoethyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione
5-[2-(tert-Butoxycarbonyl)aminoethyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione (16 mg, 0.043 mmol) was dissolved in dichloromethane (4 mL), the solution was added with trifluoroacetic acid (0.1 mL), and the mixture was stirred at room temperature for 19 hours. This reaction mixture was added with saturated aqueous sodium hydrogencarbonate (8 mL) with stirring under ice cooling, and the mixture was stirred for 5 minutes. Further, the mixture was added with 2-iodobenzoyl chloride (0.22 mmol) dissolved in dichloromethane (4 mL) with stirring under ice cooling. This reaction mixture was stirred under ice cooling for 30 minutes, and then at room temperature for 30 minutes. The dichloromethane layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (methanol/chloroform=1/50), and then recrystallized from ethyl acetate/hexane to give the title compound (9 mg, yield 42%) as white crystals. The structure was confirmed by NMR and MS.

reactant | 5-[2-(tert-Butoxycarbonyl)aminoethyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | 0.043 mmol, 16 mg | C(C)(C)(C)OC(=O)NCCN1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C20H23N3O4
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | 8 mL | C(O)([O-])=O.[Na+]
reactant | 2-iodobenzoyl chloride | 0.22 mmol | IC1=C(C(=O)Cl)C=CC=C1 | C7H4ClIO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5-[2-(2-Iodobenzoyl)aminoethyl]-1H-naphtho[1,2-b][1,4]diazepine-2,4(3H,5H)-dione | 9 mg, yield 42% | IC1=C(C(=O)NCCN2C3=C(NC(CC2=O)=O)C2=CC=CC=C2C=C3)C=CC=C1 | C22H18IN3O3
